US05242911
Racemic 3-(4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl)-1,8, 8-trimethyl-3-azabicyclo[3.2.1]octan-2,4-dione
The title compound was prepared from 2.47 g (10.4 mmol) of 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine and 1.89 g (10.3 mmol) of dl-camphoric anhydride, substantially according to the procedure of Example 1. This afforded 0.7 g of product, mp 94°-97° C. (17% yield).

reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine | 10.4 mmol, 2.47 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | dl-camphoric anhydride | 10.3 mmol, 1.89 g | CC1(C2CCC1(C(=O)OC2=O)C)C | C10H14O3
product | Racemic 3-(4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl)-1,8, 8-trimethyl-3-azabicyclo[3.2.1]octan-2,4-dione | 17% yield | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(C2(CCC(C1=O)C2(C)C)C)=O | C22H33N5O2
